US04925591
According to customary procedures, 4-dodecyloxy-2-chlorobenzoic acid synthesized in the same manner as described in Referential Example 15 was reduced with LiAlH4 to obtain 4-dodecyloxy-2-chlorobenzyl alcohol, and this compound was brominated with PBr3 to obtain 4-dodecyloxy-2-chlorobenzyl bromide. In the same manner as described in Referential Example 18, 2.0 g of the so-obtained compound was reacted with 1.0 g of 4-acetoxyphenol to obtain 4-dodecyloxy-2-chlorobenzyl(4-acetoxyphenyl) ether. Then, the acetyl group was removed by an equimolar amount of LiOH, whereby 0.9 g of 4-dodecyloxy-2-chlorobenzyl(4-hydroxyphenyl) ether was obtained.

reactant | 4-dodecyloxy-2-chlorobenzoic acid | C(CCCCCCCCCCC)OC1=CC(=C(C(=O)O)C=C1)Cl | C19H29ClO3
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 4-dodecyloxy-2-chlorobenzyl alcohol | C(CCCCCCCCCCC)OC1=CC(=C(CO)C=C1)Cl | C19H31ClO2
